US09085555B2
D. 3-Amino-5-bromo-4-fluoro-benzoic acid ethyl ester
A mixture of 3-bromo-4-fluoro-5-nitro-benzoic acid ethyl ester (20 g, 2.2 mol) and 3 g of Raney-Ni in EtOH (250 mL) was hydrogenated at RT (1 atm) overnight. The reaction mixture was filtered, the filtrate was concentrated under reduced pressure and the residue was washed with petrol ether to afford the title compound as a white solid. (400 MHz, DMSO-d6): δ (ppm) 7.38 (dd, 1H), 7.26 (dd, 1H), 5.81 (s, 2H), 4.26 (q, 2H), 1.29 (t, 3H).

reactant | 3-bromo-4-fluoro-5-nitro-benzoic acid ethyl ester | 2.2 mol, 20 g | C(C)OC(C1=CC(=C(C(=C1)[N+](=O)[O-])F)Br)=O | C9H7BrFNO4
solvent | EtOH | 250 mL | CCO | C2H6O
catalyst | Ni | [Ni] | Ni
product | 3-Amino-5-bromo-4-fluoro-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)Br)F)N)=O | C9H9BrFNO2
